US04576949
A solution of 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinecarboxylic acid ethyl ester (3.4 g) in ethyl acetate (150 ml) is treated with 10 percent palladium on carbon (0.70 g) and reduced at 40 p.s.i. hydrogen pressure for 3 hours. Catalyst is filtered and the filtrate is evaporated to yield 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethyl)-3-quinolinecarboxylic acid ethyl ester (3.28 g) as an oil.

reactant | 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethylene)-3-quinolinecarboxylic acid ethyl ester | 3.4 g | C(C)OC(=O)C=1C(=NC=2C(CCCC2C1)=CC1=CC=CC=C1)C | C20H21NO2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.70 g | [Pd] | Pd
product | 5,6,7,8-tetrahydro-2-methyl-8-(phenylmethyl)-3-quinolinecarboxylic acid ethyl ester | 3.28 g | C(C)OC(=O)C=1C(=NC=2C(CCCC2C1)CC1=CC=CC=C1)C | C20H23NO2
